datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Nc1ccc(S(=O)(=O)[NH-:10])cc1.c1ccc2c(c1)CC([NH2+:21][H:20])C2>>Nc1ccc(S(=O)(=O)[NH:10][H:20])cc1.c1ccc2c(c1)CC([NH2:21])C2 10=20;20,21=21",
"CCCn1nn[n:10]c1N.Cc1cc(C)[n+:21]([H:20])c(NS(=O)(=O)c2ccc(N)cc2)n1>>CCCn1nn[n+:10]([H:20])c1N.Cc1cc(C)[n:21]c(NS(=O)(=O)c2ccc(N)cc2)n1 10=20;20,21=21",
"CC[NH:10]CC[Se-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](CC[Se-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#CCCCC(=O)[O:21][H:20].C(CN1CCOCC1)C[N:10]1CCOCC1>>C#CCCCC(=O)[O-:21].C(CN1CCOCC1)C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C[n+]1ccc2c([O-:10])cccc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[n+]1ccc2c([O:10][H:20])cccc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N#CCC(=O)[O:21][H:20].Nc1nc(C(F)(F)F)c2c(nc[n-:10]2)n1>>N#CCC(=O)[O-:21].Nc1nc(C(F)(F)F)c2c(nc[n:10]2[H:20])n1 10=20;20,21=21",
"CC(=O)N1CC[NH+:21]([H:20])CC1.CCCCN(C)[N:10](C)CCCC>>CC(=O)N1CC[NH:21]CC1.CCCCN(C)[N+:10](C)(CCCC)[H:20] 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C[Si](C)(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[Si](C)(C)C[NH+:10](C[Si](C)(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C[N:10]1CCC2=C(C1)C(c1ccccc1)c1ccccc12.Cc1cc[n+:21]([H:20])c(N)c1>>C[N+:10]1([H:20])CCC2=C(C1)C(c1ccccc1)c1ccccc12.Cc1cc[n:21]c(N)c1 10=20;20,21=21",
"CNCC(C)C[NH:10]C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CNCC(C)C[NH+:10](C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"O=C([O-])[C@@H]1CC[C@H](C(=O)[O-:10])C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])[C@@H]1CC[C@H](C(=O)[O:10][H:20])C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCc1ncnc2c([O-:10])cccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCc1ncnc2c([O:10][H:20])cccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc(C)[n+:21]([H:20])c(N)n1.O=S(=O)([O-])c1ccc([O-:10])cc1>>CC[NH+](CC)CCNc1cc(C)[n:21]c(N)n1.O=S(=O)([O-])c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O:21][H:20].[O-]c1cncc[n:10]1>>O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O-:21].[O-]c1cncc[n+:10]1[H:20] 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCC1.Cc1cccc(C[N:10](C)C)c1O>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCC1.Cc1cccc(C[N+:10](C)(C)[H:20])c1O 10=20;20,21=21",
"Brc1c[n+](CCC[NH2:10])cc2ccccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Brc1c[n+](CCC[NH2+:10][H:20])cc2ccccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1ccccc1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1ccccc1C[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)C(O)[O-:10].Cc1cc(-c2[nH]cc[nH+]2)[n+:21]([H:20])[nH]1>>CN(C)C(O)[O:10][H:20].Cc1cc(-c2[nH]cc[nH+]2)[n:21][nH]1 10=20;20,21=21",
"Cc1cc(C)[n:10]c2c(C)cccc12.NC#[N+:21][H:20]>>Cc1cc(C)[n+:10]([H:20])c2c(C)cccc12.NC#[N:21] 10=20;20,21=21",
"CC(C)c1[nH]c2ccccc2[n+:21]1[H:20].CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:10]2>>CC(C)c1[nH]c2ccccc2[n:21]1.CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:10]2[H:20] 10=20;20,21=21",
"CC(C)CCC(=O)[O:21][H:20].[O-]c1cc([O-])cc([O-:10])c1>>CC(C)CCC(=O)[O-:21].[O-]c1cc([O-])cc([O:10][H:20])c1 10=20;20,21=21",
"Cc1nc(N)c(C[NH3+])c[n:10]1.[NH3+]CC(O)C(=O)[O:21][H:20]>>Cc1nc(N)c(C[NH3+])c[n+:10]1[H:20].[NH3+]CC(O)C(=O)[O-:21] 10=20;20,21=21",
"C=C[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C=C[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CC[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(Cc1ccccc1)[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.[S-]CC[NH:10]CCc1ccccc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.[S-]CC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"Cc1ccccc1[NH+:21](C)[H:20].Clc1ccc([NH2:10])c2ccccc12>>Cc1ccccc1[NH:21]C.Clc1ccc([NH2+:10][H:20])c2ccccc12 10=20;20,21=21",
"O=C([O-])C1CSC[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C1CSC[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C(O)c1ccc([N+](=O)[O-])cc1)[O-:10].[NH3+]CC/C=C/C(=O)[O:21][H:20]>>O=C(C(O)c1ccc([N+](=O)[O-])cc1)[O:10][H:20].[NH3+]CC/C=C/C(=O)[O-:21] 10=20;20,21=21",
"Clc1cccc2ccc([O:21][H:20])cc12.Cn1nc(-c2ccccc2)cc1[O-:10]>>Clc1cccc2ccc([O-:21])cc12.Cn1nc(-c2ccccc2)cc1[O:10][H:20] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1CCCC(C)(C)[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
